US03957783
To a solution of 2.5 g of N-methyl-2-acetylamino-3-(o-fluorobenzoyl)thiophene in 12.5 ml of ethanol, is added 6.6 ml of 6 N aqueous hydrochloric acid. The mixture is heated at 90°C for 3 hours. After cooling, the reaction mixture is neutralized with aqueous ammonia, then extracted with ether. The ether extracts are washed with water, dried over sodium sulfate, then evaporated under reduced pressure to give an oil, which is crystallized from ethanol to give 2-methylamino-3-(o-fluorobenzoyl)thiophene as crystals having a melting point of 184.5° - 186°C.

reactant | N-methyl-2-acetylamino-3-(o-fluorobenzoyl)thiophene | 2.5 g | CN(C=1SC=CC1C(C1=C(C=CC=C1)F)=O)C(C)=O | C14H12FNO2S
reactant | hydrochloric acid | 6 N, 6.6 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | ethanol | 12.5 ml | C(C)O | C2H6O
product | 2-methylamino-3-(o-fluorobenzoyl)thiophene | CNC=1SC=CC1C(C1=C(C=CC=C1)F)=O | C12H10FNOS
